US03972917
7-(3-Oxo-1-Octenyl)-1,4-Dioxaspiro[4.4]Non-6-Ylheptanoic Acid
A solution of 0.75 g. of 7-(3-hydroxy-1-octenyl)-1,4-dioxaspiro[4.4]non-6-ylheptanoic acid in 40 ml. of acetone was cooled to 0°C. and treated with 2.0 ml. of Jones Reagent. After stirring for 10 minutes, at 0°C., the reaction mixture was treated with 5 ml. of methanol, dilute sodium bicarbonate until basic and water. Following acidification with acetic acid, the mixture was extracted with ether and the extract washed with water, dried and evaporated. Silica chromatography of the resulting residue with 30% ethyl acetate-hexane gave 0.355 g. of the title product, λmaxfilm 3.1 (shoulder), 5.8, 6.1, 6.75, 8.6, 9.6, 10.1, 10.5 μ. NMR: δ 6.78 (dd, 1, J=8.3, 15.8, 13-H), 6.18 (d, 1, J- 15.8, 14-H), 3.92 (S, 4, ketal) ppm. UV: λmaxEtOH 230 mμ (ε 10,000). Mass spectrum M+ at m/e 380.2523 (theory 380.2562).

reactant | 7-(3-hydroxy-1-octenyl)-1,4-dioxaspiro[4.4]non-6-ylheptanoic acid | OC(C=CC1C(C2(OCCO2)CC1)C(C(=O)O)CCCCC)CCCCC | C22H38O5
reactant | acetone | CC(=O)C | C3H6O
reactant | Jones Reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 7-(3-Oxo-1-Octenyl)-1,4-Dioxaspiro[4.4]Non-6-Ylheptanoic Acid | O=C(C=CC1C(C2(OCCO2)CC1)C(C(=O)O)CCCCC)CCCCC | C22H36O5
